Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I can't believe I am here"
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ year old ___ woman with no formal 
prior psychiatric diagnoses, but longstanding history of 
depressive symptoms with one prior suicide attempt by hanging, 
who was brought in by ambulance on a ___ after she 
presented to urgent ___ seeking medical attention for a self 
inflicted head wound which she reported as a suicide attempt. 

"Per documentation by Dr. ___ MD), patient 
reported that she felt depressed and angry and banged her head 
into a wall trying to kill herself leading to a picture frame 
breaking; she subsequently had thoughts of trying to kill 
herself by cutting herself with the broken glass. She told the 
___ physician that her employer stopped her from doing this and 
brought her to urgent ___ for evaluation. She was sent to the 
ED on a ___ from urgent ___. 

On interview at this time, patient reports that lately she has 
been feeling lonely, sad, and "unloved". Patient moved to the ___ 
from ___ in ___ by herself. She reports appreciating the 
___ lifestyle, freedom, and opporunities here but has felt 
very lonely, feeling like no one loves or cares about her, 
struggling to make friends. She reports feelings of sadness 
began in ___ and it has been worsening to the point where she 
intermittently feels "it is not meaningful to live". She reports 
for the past ___ years she has been somewhat impulsively making 
big decisionsto try to feel better, including starting school in 
___ but then dropping out and getting married in ___. She 
reports she was unhappy in the marriage and regards her husband 
as "a loser who can't work hard". Reports she moved out in 
___ and took a job as a live-in ___ taker for a woman 
with dementia (employed by the woman's husband whom is a 
psychiatrist. She reports she continued to feel lonely and sad 
so joined the ___ and did 4 months of training between 
___ and ___. Since then she has continued to live 
with the psychiatrist though his wife has since been placed in a 
nursing home. 

For the past few months, she has continued to struggle with 
depressed mood, loneliness, feeling unloved. She describes 
arguing with her employer whom she lives with, feeling like he 
doesn't listen to her or ___ about her. Feels like her life 
isn't enough for her. She reports when she is feeling very sad, 
she has had thoughts of not wanting to be alive. 

Today she reports she felt very sad and was trying to explain to 
her employer how she feels and he wasn't listening to her and 
began yelling at her. She says she became upset and "started 
hurting [herself]", banging her head against the wall "to try to 
kill [herself]". She says a picture frame broke and she tried to 
use the glass to cut herself with intention of ending her life. 
Her employer told her he was mad she broke the picture which 
caused her to feel even more unimportant. 

She reports she has struggled with suicidal thoughts since 
childhood. Reports mom was emotionally and physically abusive 
and she didn't feel cared for or loved by her mom. ___ 
recalls several memories of moms abuse, raising her voice often. 
Reports she wanted to kill herself to hurt her mother and tried 
to hang herself when she was a child in elementary school. 

At this time she denies suicidal thinking and does not have a 
plan to harm herself in the ED. 

COLLATERAL Dr. ___ (___) Came to work for us 
___, taking ___ of my wife, and she has done well for 
us; I've supported her with her goal to go to school. But she 
has developed feelings for me. Tells me she loves me and asks if 
I love her as much as my wife. I have been worried about her 
recently. Not too long ago she took out a knife and was very 
upset, I had to take it out of her hand. Today she got so upset 
and I couldn't control her when she was banging her head against 
the wall. Then she grabbed a piece of glass which broke and cut 
herself. I do think she needs psychiatric treatment. She is 
welcome to come back though she may be better off somewhere else 
in the long term. 

REVIEW OF SYSTEMS: -Psychiatric: ---Endorses depressed mood, 
intermittent fatigue, low motivation, intermittent insomnia, 
feelings of loneliness and emptiness, intermittent suicidal 
thinking ---Denies anxiety (worry/nervousness), recent or 
historical symptoms of mania or AH/VH, HI -General: 12 point ROS 
denied " 

In the ED, patient was in good behavioral control and did not 
require chemical or physical restraints. CT scan was performed 
and the following PRN medications were administered: ___ 
22:35 PO Lorazepam .5 mg ___ 00:49 PO Lorazepam .5 mg 

On admission to the inpatient psychiatric unit, Ms. ___ 
confirmed the history described above and expressed that she 
continues to feel "sad" and "lonely". She described a 
longstanding history of mood fluctuations, with periods of 
feeling depressed (especially when she is not actively involved 
in school or any other meaningful activity), alternating with 
normal mood. She denied episodes of elevated mood, decreased 
need for sleep, or racing thoughts, but did confirm making 
several impulsive decisions (as described above) due to feelings 
of emptiness and desire to pursue a more "meaningful" life. She 
denied hopelessness, and denied thoughts of self-harm/SI/HI, 
intent or plan at this time. She is not happy about being on the 
inpatient unit but is interested in getting treatment in order 
to feel better and wants to work with the team here. She said 
that she would notify staff if her symptoms worsen or if she 
starts having thoughts about harming herself or ending her life. 

 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
-Prior diagnoses: denies prior diagnoses though endorses
longstanding waxing and waning symptoms of depression with
suicidal thinking 
-Hospitalizations: denies 
-Psychiatrist: denies
-Therapist: denies 
-Medication trials: denies
-Suicide attempts: in childhood (elementary school) tried to 
hang
herself with a rope
-Self-injurious behavior: head banging prior to this
presentation; a week ago intentionally overdosed on sleep med
thinking she did not want to wake up but did not think it would
kill her. 
-Trauma: emotional and physical abuse from mother 
-Access to weapons: denies

PAST MEDICAL HISTORY:
**PCP: Dr. ___ chronic medical conditions
-Denies prior history of head trauma or seizure

MEDICATIONS:
-Reports she has been taking a medication she bought off the
internet called ___ for sleep. ?Unisom (doxylamine)
-denies taking any other prescribed or OTC medication

ALLERGIES: NKDA 

 
Social History:
___
Family History:
FAMILY PSYCHIATRIC HISTORY:
-Psychiatric Diagnoses: denies any known diagnosed mental 
illness
but suspects that her mother was depressed
-___ Use Disorders: denies
-Suicide Attempts/Completed Suicides: denies

 
Physical Exam:
___ 1752 Temp: 98.5 PO BP: 127/84 HR: 87 RR: 18 O2 sat: 94%
O2 delivery: RA 

EXAM:
General:
-HEENT: Normocephalic, has circular hematoma, approx. 6cm in
diameter on the right side of forehead, mildly tender to
palpation. Moist mucous membranes, oropharynx clear, supple 
neck.
No scleral icterus.
-Cardiovascular: Regular rate and rhythm, S1/S2 heard, no
murmurs/rubs/gallops. Distal pulses ___ throughout.
-Pulmonary: No increased work of breathing.  Lungs clear to
auscultation bilaterally.  No wheezes/rhonchi/rales.
-Abdominal: Non-distended, bowel sounds normoactive.  No
tenderness to palpation in all quadrants.
-Extremities: Warm and well-perfused.  No edema of the limbs.
-Skin: No rashes or lesions noted.

Neurological:
-Cranial Nerves:
---I: Olfaction not tested.
---II: PERRL 3 to 2mm, both directly and consentually; brisk
bilaterally.  VFF to confrontation.
---III, IV, VI: EOMI without nystagmus
---V: Facial sensation intact to light touch in all 
distributions
---VII: No facial droop, facial musculature symmetric and ___
strength in upper and lower distributions, bilaterally
---VIII: Hearing intact to finger rub bilaterally
---IX, X: Palate elevates symmetrically
---XI: ___ strength in trapezii and SCM bilaterally
---XII: Tongue protrudes in midline
-Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength ___ throughout.
-Sensory: No deficits to fine touch throughout
-DTRs: 2 and symmetrical throughout
Coordination: Normal on finger to nose test, no intention tremor
noted
-Gait: Good initiation.  Narrow-based, normal stride and arm
swing.  Romberg absent.

Cognition: 
-Wakefulness/alertness: Awake and alert
-Attention: MOYB with 0 errors
-Orientation: Oriented to person, time, place, situation
-Memory: ___ registration, ___ recall after 5 ___
grossly intact
-Fund of knowledge: Consistent with education; intact to last 3
presidents
-Calculations: 7 quarters = "$1.75"
-Abstraction: Interprets "don't judge a book by its cover" as 
"If
you don't really know that person, you can't know them inside"
-Visuospatial: Not assessed
-Language: Speaks with an accent, no paraphasic errors,
appropriate to conversation

Mental Status:
-Appearance: Asian woman appearing stated age, fair grooming and
hygiene, wearing hospital gown, in no acute distress, with
circular hematoma on right forehead
-Behavior: Appropriate eye contact, no psychomotor restlessness
or slowing
-Attitude: Cooperative, engaged, pleasant
-Mood: "sad"
-Affect: Mood-congruent, dysthymic, restricted range, though did
smile briefly on several occasions
-Speech: Normal rate, volume, and tone
-Thought process: Linear, coherent, goal-oriented, no loose
associations
-Thought Content: Focused around being lonely, unloved, and not
having meaning in her life.
---Safety: Denies SI/HI, intent, or plan
---Delusions: No evidence of delusions
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: Denies AVH, not appearing to be attending to
internal stimuli
-Insight: Fair
-Judgment: Impaired

 
Pertinent Results:
CT head w/o contrast (___):
1. No acute intracranial hemorrhage. 
2. Mild frontal soft tissue swelling. 
3. Mild bilateral parietal predominant prominent subdural space
suggestive of atrophy which is inappropriate for the patient's
age. 

___ 12:29PM BLOOD WBC-6.4 RBC-4.19 Hgb-12.4 Hct-39.2 MCV-94 
MCH-29.6 MCHC-31.6* RDW-12.0 RDWSD-41.0 Plt ___
___ 12:29PM BLOOD Neuts-72.1* ___ Monos-5.8 
Eos-0.8* Baso-0.5 Im ___ AbsNeut-4.64 AbsLymp-1.32 
AbsMono-0.37 AbsEos-0.05 AbsBaso-0.03
___ 12:29PM BLOOD Glucose-82 UreaN-22* Creat-0.8 Na-140 
K-4.9 Cl-106 HCO3-23 AnGap-11
___ 12:29PM BLOOD Calcium-9.7 Phos-4.0 Mg-2.3
___ 06:01AM BLOOD VitB12-902* Folate-14
___ 06:01AM BLOOD TSH-2.8
___ 06:01AM BLOOD 25VitD-22*
___ 12:29PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG
___ 09:20PM URINE Color-Straw Appear-Clear Sp ___
___ 09:20PM URINE Blood-NEG Nitrite-NEG Protein-10* 
Glucose-200* Ketone-10* Bilirub-NEG Urobiln-NORMAL pH-6.0 
Leuks-NEG
___ 09:20PM URINE RBC-0 WBC-3 Bacteri-NONE Yeast-NONE Epi-2
___ 12:29PM URINE AmorphX-FEW
___ 09:20PM URINE Mucous-RARE*
___ 09:20PM URINE UCG-NEGATIVE
___ 12:29PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
 
Brief Hospital Course:
DISCHARGE SUMMARY

1. LEGAL & SAFETY:  
 On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission. They were also placed on 15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted. No 
behavioral incidents, security intervention, or restraints 
required. 

2. PSYCHIATRIC:
 #) Unspecified depressive disorder
 #) Borderline personality disorder 
 1) Patient's initial presentation to the unit was notable for 
feelings of chronic loneliness, depressed mood, grief over 
recent familial losses. Patient expressed a fear of abandonment 
by her supports, and intense despair that no one cared about her 
or would take ___ of her. Her mental status exam was notable 
for significant mood lability, oscillating from laughing to 
irritable to sobbing (particularly around familial losses), and 
limited insight into her unsafe behaviors and mental health 
needs. 
 2) Diagnostically, consideration was given to bipolar diathesis 
given mood lability, impulsivity. However, as time progressed, 
these symptoms seemed specifically exacerbated in times of 
interpersonal conflict, hypersensitivity to rejection, poor 
distress tolerance, and seemed overall more suggestive of 
borderline personality disorder. Depressive symptoms had 
worsened after familial losses, though patient denied 
symptomology consistent with major mood disorder. Most likely, 
patient has borderline personality disorder, with increased 
affective dysregulation in the setting of grief/bereavement. 
 3) Intervention proposed included medication trial; patient was 
started on escitalopram, titrated to 10mg po daily, tolerated 
without significant side effect. She was offered PRN hydroxyzine 
25mg, which she took very rarely and thus was discontinued at 
discharge. 
 4) Outcome of hospitalization was patient buy-in for continued 
mental health ___. She continued to express limited insight 
into her mental health needs, but was able to acknowledge that 
she could benefit from ongoing discussion of how to manage her 
stress and emotions. She bought a ___ skills workbook and was 
able to discuss her mental health needs with peers, felt more 
normalized and supported. Patient denied suicidal ideation and 
very future-oriented (enrolled in school, ___ reserves, 
employment, social plans). 
 5) Future recommendations include mood stabilizer; particular 
consideration for lamotrigine given depressive symptoms and 
ideal side effect profile, some limited evidence for borderline 
personality disorder. The most essential part of aftercare will 
be ongoing therapy to target distress tolerance, and coping 
skills. She would benefit greatly from dialectical behavioral 
therapy. We also recommended partial hospitalization program for 
further coping skills work, but patient opted against group 
based therapy. Patient will also benefit from structure and 
boundaries, and we encouraged plans to continue work and pursue 
college work. 

3. SUBSTANCE USE DISORDERS: No acute needs

4. MEDICAL
 #) Hypovitaminosis D: Vitamin D level of 22 on admission. 
Started on vitamin D 1000 unit daily supplementation. 

5. PSYCHOSOCIAL
 #) GROUPS/MILIEU:  
 The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  The 
patient occasionally attended these groups that focused on 
teaching patients various coping skills. Patient was frequently 
visible in the milieu, sociable with peers, bright on staff 
approach. 

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT
Collateral information was obtained from residential employer. A 
team meeting was held and the decision was made to discharge her 
to her prior residence and place of employment. This arrangement 
is contingent on her continued participation in therapy and 
psychiatry. Plan reiterated prior to discharge, with both 
patient and employer in agreement. 

 #) INTERVENTIONS
 - Medications: escitalopram
 - Psychotherapeutic Interventions: Individual, group, and 
milieu therapy.
 - Coordination of aftercare: outpatient psychiatry, therapy 
 - Behavioral Interventions: encouraged DBT skills, 
reality-testing, problem-solving, contingency planning
 - Guardianships: none

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting escitalopram, and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient. We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any 
questions about medications with the treatment team.  The 
patient appeared able to understand and consented to begin the 
medication.

RISK ASSESSMENT & PROGNOSIS
 On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself based upon severe head-banging 
with suicidal intent. Their static factors noted at that time 
include history of suicide attempts, history of abuse, chronic 
mental illness, the possible presence of a concurrent 
personality disorder.  The modifiable risk factors included poor 
distress tolerance, limited coping skills, lack of outpatient 
provider, lack of psychotropic regimen were addressed via 
therapeutic intervention, connection to outpatient treaters, and 
medication management. Finally, the patient is being discharged 
with protective risk factors,  including help-seeking behavior, 
female gender, lack of access to lethal weapons, future 
orientation, resolution of suicidal ideation. Based on the 
totality of our assessment at this time, the patient is not at 
an acutely elevated risk of self-harm nor danger to others. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Escitalopram Oxalate 10 mg PO DAILY 
RX *escitalopram oxalate 10 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*0 
2.  Loratadine 10 mg PO DAILY  
3.  Vitamin D 1000 UNIT PO DAILY 
RX *ergocalciferol (vitamin D2) 400 unit 2 capsule(s) by mouth 
once a day Disp #*60 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unspecified depressive disorder
Cluster B personality traits

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
.
MENTAL STATUS:
 *Appearance: no acute distress; well-developed, Asian woman,
appears stated age, dressed casually, fairly ___, hair tied
back
 *Behavior: cooperative, engaged, polite. appropriate eye 
contact.  
 *Mood and Affect: 'good' / affect more stable, brighter, less
irritable
 *Thought process / *associations: linear, goal-direct,
future-oriented, coherent. no looseness of associations. 
 *Thought Content: denies SI/SIB thoughts since admission. no HI
voiced. no AVH. not responding to internal stimuli. no delusions
elicited.
 *Judgment and Insight: limited, improving 

COGNITION:
 Wakefulness/alertness: Alert
 *Attention: intact to interview
 *Orientation: oriented
 *Memory: ___ grossly intact
 *Speech: fluent, spontaneous, clear. normal volume, rate, tone,
prosody. 
 *Language: near-fluent ___, occasional paraphasic errors;
coherent, interview is able to progress smoothly

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health ___ providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___